US08455532B2
(1) Synthesis of methyl 1-ethyl-4-iodo-3-methylpyrazol-5-ylcarboxylate
To a flask, methyl 1-ethyl-3-methylpyrazol-5-ylcarboxylate (1.00 g, 0.006 mol, Ref. CN1626520A) was dissolved in 10 mL of DMF and N-iodosuccinimide (1.47 g, 0.007 mol) was added in batches. After reacting for 8 h at r.t., the mixture was diluted with 50 mL of water, and then extracted with 50 mL of ethyl acetate. The organic layer was washed with 50 mL of saturated aqueous sodium bicarbonate solution and 50 mL of saturated brine, dried over anhydrous MgSO4 and concentrated under reduced pressure. Column chromatography (EtOAc:P.E.=1:10 as eluent) gave 0.82 g of the title compound as a yellow oil (yield 47%).

reactant | methyl 1-ethyl-3-methylpyrazol-5-ylcarboxylate | 0.006 mol, 1.00 g | C(C)N1N=C(C=C1C(=O)OC)C | C8H12N2O2
reactant | N-iodosuccinimide | 0.007 mol, 1.47 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | methyl 1-ethyl-4-iodo-3-methylpyrazol-5-ylcarboxylate | 0.82 g, yield 47% | C(C)N1N=C(C(=C1C(=O)OC)I)C | C8H11IN2O2
